US07482375B2
Preparation 17: tert-Butyl 4-(4-cyanophenoxy)-5-ethyl-3-methoxy-1H-pyrazole-1-carboxylate
Triphenylphosphine (240 mg, 0.91 mmol) was dissolved in tetrahydrofuran (5 ml), and then methanol (37 μl, 0.91 mmol) was added, followed by diisopropyl azodicarboxylate (185 mg, 0.91 mmol). The reaction mixture was stirred under nitrogen for 5 minutes, until it had almost decolourised, and then the pyrazole carboxylate of Preparation 16 (200 mg, 0.61 mmol) was added. The reaction mixture was stirred at room temperature for 3 hours. Analysis by TLC showed the presence of both N- and O-alkyl products, with O-alkyl being the major component. The reaction mixture was then evaporated and the crude product was purified by flash chromatography on silica gel eluting with ethyl acetate:pentane (1:9 then 7:3, by volume). The faster running O-alkyl title compound was isolated as a colourless oil (89 mg, 43%).

reactant | Triphenylphosphine | 0.91 mmol, 240 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 0.91 mmol, 37 μl | CO | CH4O
reactant | diisopropyl azodicarboxylate | 0.91 mmol, 185 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | pyrazole carboxylate | N1N=C(C=C1)C(=O)[O-]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-(4-cyanophenoxy)-5-ethyl-3-methoxy-1H-pyrazole-1-carboxylate | 89 mg, 43% | C(#N)C1=CC=C(OC=2C(=NN(C2CC)C(=O)OC(C)(C)C)OC)C=C1 | C18H21N3O4
